US04330321
N((Isopropylamino)carbonyl)-2-(4-((3-chloro-5-(trifluoromethyl)-2-pyridyl)-oxy)phenoxy)propanamide
2-(4-((3-Chloro-5-(trifluoromethyl)-2-pyridyl)-oxy)phenoxy)propanamide (3.6 g, 0.01 mole) was dissolved in 80 ml. dry toluene. Isopropyl isocyanate (2.55 g, 0.03 mole) was then added and the mixture refluxed for about 16 hours. The toluene was removed by distillation and cold hexane was added. The product precipitated as white crystals, m.p. 135°-137° C.; Yield 3.6 g; 80.7%.

reactant | 2-(4-((3-Chloro-5-(trifluoromethyl)-2-pyridyl)-oxy)phenoxy)propanamide | 0.01 mole, 3.6 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(OC(C(=O)N)C)C=C1 | C15H12ClF3N2O3
reactant | Isopropyl isocyanate | 0.03 mole, 2.55 g | C(C)(C)N=C=O | C4H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N((Isopropylamino)carbonyl)-2-(4-((3-chloro-5-(trifluoromethyl)-2-pyridyl)-oxy)phenoxy)propanamide | C(C)(C)NC(=O)NC(C(C)OC1=CC=C(C=C1)OC1=NC=C(C=C1Cl)C(F)(F)F)=O | C19H19ClF3N3O4
